US05286721
A solution of 0.48 g of allyl 2-[(3S,4R)-4-(4-allyloxycarbonylamino-3-(N-allyloxycarbonylaminomethyl)-2-oxobutyl]-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-2-oxoazetidin-1-yl]-2-oxoacetate and 0.39 ml of triethyl phosphite in 2.4 ml of toluene was stirred at 90° C. for 10 hours. After ylid was identified by thin layer chromatography the temperature was raised to 130° C. and 42 mg of hydroquinone was added. After stirring for 4 hours at 130° C., the reaction mixture was cooled to room temperature and then ethyl acetate was added. The organic layer was washed in turn with 5% aqueous potassium carbonate and brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was chromatographed on silica gel to give 0.28 g of allyl (5R,6S)-3-[2-allyloxycarbonylamino-1-(N-allyloxycarbonylaminomethyl)ethyl]-6-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate.

reactant | allyl 2-[(3S,4R)-4-(4-allyloxycarbonylamino-3-(N-allyloxycarbonylaminomethyl)-2-oxobutyl]-3-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-2-oxoazetidin-1-yl]-2-oxoacetate | 0.48 g | C(C=C)OC(=O)NCC(C(C[C@@H]1[C@H](C(N1C(C(=O)OCC=C)=O)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)CNC(=O)OCC=C | C29H45N3O10Si
reactant | triethyl phosphite | 0.39 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | hydroquinone | 42 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.4 ml | C1(=CC=CC=C1)C | C7H8
product | allyl (5R,6S)-3-[2-allyloxycarbonylamino-1-(N-allyloxycarbonylaminomethyl)ethyl]-6-[(R)-1-(t-butyldimethylsilyloxy)ethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.28 g | C(C=C)OC(=O)NCC(CNC(=O)OCC=C)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C | C29H45N3O8Si
